US05100913
VIII b) Preparation of 4-[(4-hydroxyphenyl)sulfonyl]benzonitrile
A mixture of 5.12 g (0.0187 mol) of 4-[(4-methoxyphenyl)sulfonyl]benzonitrile and 21.6 g of pyridinium hydrochloride is kept at 200° C. for 2 hours. After cooling, the reaction medium is hydrolyzed in a 1 N solution of hydrochloric acid. The precipitate formed is filtered off and rinsed with a 1 N solution of hydrochloric acid and then with water until the pH of the washings is neutral. 4.5 g (yield: 99%) of the expected product are thus obtained in the form of a gray solid.

reactant | 4-[(4-methoxyphenyl)sulfonyl]benzonitrile | 0.0187 mol, 5.12 g | COC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C#N)C=C1 | C14H11NO3S
reactant | pyridinium hydrochloride | 21.6 g | Cl.[NH+]1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
product | 4-[(4-hydroxyphenyl)sulfonyl]benzonitrile | 4.5 g, yield: 99% | OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C#N)C=C1 | C13H9NO3S
